US04316893
Preparation of 1-n-Hexylazacycloheptan-2-one having the formula
Following example 10, from 10.2 g of 50% sodium hydride-mineral oil dispersion (5.1 g NaH, 0.2125 M), 20 g (0.177 M) of azacycloheptan-2-one and 33 g (0.2 M) of 1-bromohexane on 19 hr. reflux was obtained 29.8 g (85.3%) of colorless product; b.p 122-128°/0.4 mm.

reactant | sodium hydride | 10.2 g | [H-].[Na+]
reactant | NaH | 5.1 g | [H-].[Na+]
reactant | azacycloheptan-2-one | 0.177 M, 20 g | N1C(CCCCC1)=O | C6H11NO
reactant | 1-bromohexane | 0.2 M, 33 g | BrCCCCCC | C6H13Br
product | 1-n-Hexylazacycloheptan-2-one | 29.8 g, 85.3% | C(CCCCC)N1C(CCCCC1)=O | C12H23NO
